US07615556B2
To a solution of 3-(4-chlorophenylamino)-3-methylbutanoic acid (1 g, 4.7 mmol) in CH2Cl2 (20 mL), was added BOP (2.07 g, 4.7 mmol), DIPEA (1.63 mL, 9.4 mmol) and glycine ethyl ester hydrochloride (0.79 g, 4.7 mmol). The mixture was stirred at rt overnight. The reaction was quenched with aq. NaHCO3, extracted with CH2Cl2, and the combined organic extracts were dried over Na2SO4 and concentrated. The residue was purified by flash column chromatography using 0-30% EtOAc in hexanes as eluent to give ethyl 2-(3-(4-chlorophenylamino)-3-methylbutanamido)acetate (1.34 g, 96% yield) as a yellow oil.

reactant | 3-(4-chlorophenylamino)-3-methylbutanoic acid | 4.7 mmol, 1 g | ClC1=CC=C(C=C1)NC(CC(=O)O)(C)C | C11H14ClNO2
reactant | BOP | 4.7 mmol, 2.07 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIPEA | 9.4 mmol, 1.63 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | glycine ethyl ester hydrochloride | 4.7 mmol, 0.79 g | Cl.C(C)OC(CN)=O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-(3-(4-chlorophenylamino)-3-methylbutanamido)acetate | 1.34 g, 96% yield | ClC1=CC=C(C=C1)NC(CC(=O)NCC(=O)OCC)(C)C | C15H21ClN2O3
